US04925867
10% Aqueous hydrochloric acid (30 ml) was added dropwise over 5 min to a stirred solution of 2-hydroxyliminomethylpentanoate (1.74 g, 8.57 mmol) and pyridine - borane complex (3 ml, 2.7 g, 29 mmol) in ethanol (15 ml) at 0° C. After the addition was complete the mixture was stirred at room temperature for 30 min. basified to pH9 with solid sodium carbonate and extracted with dichloromethane (3×25 ml). The combined organic layers were washed with brine, dried (MgSO4). evaporated in vacuo, the residue dissolved in methanol (20 ml), and sodium methoxide (0.56 g. 10.4 mmol) added. The solution was then refluxed for 2 h, cooled to room temperature. and benzyl bromide (1.5 ml, 2.16 g, 12.6 mmol) added. After stirring for 16 h sodium methoxide (0.5 g) was added, and the mixture stirred for a further 30 min before being poured into water, and extracted with ether (3×30 ml). The combined organic layers were washed with water and brine, dried (MgSO4), evaporated in vacuo, and purified by flash chromatography. eluting with dichloromethane : methanol (96:4 v/v) to give 1-benzyloxy-4-ethyl-3-hydroxypyrrolidin-2-one as a mixture of isomers (2:1 by NMR) (1.10 g, 55%) as an oil. 1H NMR (360 MHz, CDCl3) Major isomer: δ7.4-7.5 (5 H, m, Ph), 5.03 (1 H, d, J=11.0 Hz, OCHAHB), 4.98 (1 H, d, J=11.0 Hz, OCHAHA), 3.91 (1 H, d, J=8.2 Hz, CHOH), 3.31 (1 H, t, J=8.5 Hz, NCHAHB), 2.87 (1 H, t, J=8.5 Hz, NCHAHB), 2.0-2.1 (1 H, m, CHCH2), 1.7-1.8 and 1.3-1.4 (2 H, m, CH2CH3), 0.91 (3 H, t, J= 7.44 Hz, CH3). Minor isomer δ7.4-7.5 (5 H, m, Ph), 5.00 (2 H, s, OCH2), 4.24 (1 H, d, J=7.3 Hz, CHOH), 3.28 (1 H, dd, J=6.8 and 8.8 Hz, NCHAHB), 3.06 (1H, dd, J=4.7 and 8.8 Hz, NCHAHB), 2.1-2.2 (1 H, m, CHCH2), 1.7-1.8 and 1.2-1.3 (2 H, m, CH2CH3), 0.84 (3 H, t, J=7.4 Hz, CH3), m/z (CI, NH3) 236 (M+ +H).

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 2-hydroxyliminomethylpentanoate | 8.57 mmol, 1.74 g | ON=CC(C(=O)[O-])CCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium methoxide | 10.4 mmol, 0.56 g | C[O-].[Na+]
reactant | benzyl bromide | 12.6 mmol, 1.5 ml, 2.16 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-benzyloxy-4-ethyl-3-hydroxypyrrolidin-2-one | C(C1=CC=CC=C1)ON1C(C(C(C1)CC)O)=O | C13H17NO3
